US07247628B2
2-[5-(4-Chlorophenyl)-1-(2-chlorophenyl)-4-methyl-1H-pyrazol-3-yl]-4-cyclohexyl-morpholine (5A-3)
Triethyl amine (37 μl, 0.27 mmol) was added into the solution of 2-[1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-methyl-1H-pyrazol-3-yl]-morpholine hydrochloride 5A-2 (75 mg, 0.18 mmol) and cyclohexanone (18 μl, 0.18 mmol) in 0.5 ml 1,2-dichloroethane. The reaction mixture was then treated with sodium triacetoxyborohydride (52 mg, 0.25 mmol) followed by acetic acid at room temperature. Upon the completion of the reaction, the reaction mixture was partitioned with ethyl acetate and saturated NaHCO3. The organic layer was washed with brine, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by chromatography (silica, 60% ethyl acetate/hexanes) to give the title compound 5A-3 as a white solid (40 mg).

reactant | Triethyl amine | 0.27 mmol, 37 μl | C(C)N(CC)CC | C6H15N
reactant | 2-[1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-methyl-1H-pyrazol-3-yl]-morpholine hydrochloride | 0.18 mmol, 75 mg | Cl.ClC1=C(C=CC=C1)N1N=C(C(=C1C1=CC=C(C=C1)Cl)C)C1CNCCO1
reactant | cyclohexanone | 0.18 mmol, 18 μl | C1(CCCCC1)=O | C6H10O
reactant | sodium triacetoxyborohydride | 0.25 mmol, 52 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 0.5 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-[5-(4-Chlorophenyl)-1-(2-chlorophenyl)-4-methyl-1H-pyrazol-3-yl]-4-cyclohexyl-morpholine | ClC1=CC=C(C=C1)C1=C(C(=NN1C1=C(C=CC=C1)Cl)C1CN(CCO1)C1CCCCC1)C | C26H29Cl2N3O
